US08012972B2
6-Acetoxymethylpyridine-3-carboxylic acid methyl ester (Reference Compound No. 9-1)
N,N-Diisopropylethylamine (2.2 mL, 13 mmol) and acetic anhydride (3.5 mL, 38 mmol) were added to a solution of 6-methylpyridine-3-carboxylic acid methyl ester N-oxide (Reference Compound No. 8-1, 2.1 g, 13 mmol) in acetic acid (14 mL), and then the reaction mixture was stirred at 120° C. for 135 minutes. After cooling, saturated aqueous sodium hydrogen carbonate solution (100 mL) was added thereto, and then sodium hydrogen carbonate was added until foam formation was ended. The whole was extracted with ethyl acetate (100 mL, 50 mL), the organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), and then the resulting solid was collected by filtration with hexane and ethyl acetate to give 1.2 g of the title reference compound as a pale yellow solid. (Yield 48%)

reactant | N,N-Diisopropylethylamine | 13 mmol, 2.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic anhydride | 38 mmol, 3.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-methylpyridine-3-carboxylic acid methyl ester N-oxide | 13 mmol, 2.1 g | COC(=O)C=1C=[N+](C(=CC1)C)[O-] | C8H9NO3
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 6-Acetoxymethylpyridine-3-carboxylic acid methyl ester | Yield 48% | COC(=O)C=1C=NC(=CC1)COC(C)=O | C10H11NO4
